US07767665B2
2-{6-[(2-Pyridylthio)methyl]-2-pyridyl}-4H-1,3-benzothiazine-4-one
2-mercaptopyridine (0.21 g, 1.89 mmol) and sodium hydride (60% in oil, 0.083 g, 2.06 mmol) were dissolved in DMF (30 ml), and 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl methanesulfonate (0.60 g, 1.72 mmol) was added thereto. The reaction mixture was stirred at room temperature for 18 hrs and combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from ethanol to give the titled compound (0.54 g, 87%) as pale yellow crystals.

reactant | 2-mercaptopyridine | 1.89 mmol, 0.21 g | SC1=NC=CC=C1 | C5H5NS
reactant | sodium hydride | 2.06 mmol, 0.083 g | [H-].[Na+]
reactant | 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl methanesulfonate | 1.72 mmol, 0.60 g | CS(=O)(=O)OC1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2O4S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-{6-[(2-Pyridylthio)methyl]-2-pyridyl}-4H-1,3-benzothiazine-4-one | 0.54 g, 87% | N1=C(C=CC=C1)SCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C19H13N3OS2
